US05246945
1-(1-Methyl-2-piperidyl)ethyl 1-methylindazole-3-carboxylate
(1-Methyl-2-piperidyl)-1-ethanol (4.5 g, 31 mmol) was dissolved in dry THF (70 ml) and 1,3-dimethyl-2-imidazolidinone (20 ml) was added. The solution was ice-cooled and a hexane solution of n-BuLi (1.6M, 20 ml) was added dropwise. The reaction solution was stirred at room temperature for 20 minutes, to which was added dropwise a solution of 1 methylindazole-3-carboxylic acid chloride (5.4 g, 28 mmol) dissolved in a mixed solution of dry THF (70 ml) and 1,3-dimethyl-2-imidazolidinone (20 ml). The mixture was stirred overnight at room temperature, the reaction solution was concentrated under reduced pressure and a 5% sodium bicarbonate solution was added. It was extracted with chloroform. The organic layer was washed with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain a residue. Separation and purification of the residue by silica gel column chromatography (110 g SiO2, chloroform:methanol=100:1) and further silica gel column chromatography with a different solvent (100 g SiO2, hexane:ethyl acetate=1:1) gave the title compound, 0.52 g of a high polar isomer and 0.64 g of a low polar isomer, respectively.

reactant | (1-Methyl-2-piperidyl)-1-ethanol | 31 mmol, 4.5 g | CN1C(CCCC1)C(C)O | C8H17NO
reactant | hexane | CCCCCC | C6H14
reactant | n-BuLi | 1.6M, 20 ml | [Li]CCCC
reactant | methylindazole-3-carboxylic acid chloride | 28 mmol, 5.4 g | CC1=C2C(=NNC2=CC=C1)C(=O)Cl | C9H7ClN2O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | 1,3-dimethyl-2-imidazolidinone | 20 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | 1,3-dimethyl-2-imidazolidinone | 20 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 1-(1-Methyl-2-piperidyl)ethyl 1-methylindazole-3-carboxylate | CN1N=C(C2=CC=CC=C12)C(=O)OC(C)C1N(CCCC1)C | C17H23N3O2
